US07754737B2
(S)-tert-butyl 1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamate (5.78 g, 0.014 mol) was dissolved into a minimal volume of ethyl ether (100 mL) and added to a solution of TsOH (2.92 g, 0.0154 mol) in 20.0 mL of absolute EtOH. This solution was placed on a rotary evaporator and the Et2O was removed at ambient temp. The flask was then lowered into the water bath (temperature: 60° C.) and the selective de-protection of the BOC group proceeded concurrently with removal of the remainder of the solvent. The reaction was completed by 2 h and gave an off-white solid, which was washed with hexanes:EtOAc (5:1, v/v, 3×10 mL), basified with 1N NaOH (pH>10), and extracted with ethyl ether (3×50 mL). The combined organic extracts were washed with 1N NaOH (3×5 mL) and brine (3×5 mL), dried, decanted and stripped to give the free base of (S)-2-(trimethylsilyl)ethyl 2-amino-3-cyclohexylpropyl(methyl)carbamate (3.5 g, 80%). 1H NMR (400 MHz, CDCl3): 4.15 (t, J=8.4 Hz, 2H), 3.10 (m, 3H), 2.91 (s, 3H), 1.78-1.56 (m, 5H), 1.50-1.00 (M, 6H), 1.00-0.70 (m, 4H), 0.01 (s, 9H). MS (E/Z): 315 (M+H+).

reactant | (S)-tert-butyl 1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamate | 0.014 mol, 5.78 g | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(OC(C)(C)C)=O | C21H42N2O4Si
reactant | ethyl ether | 100 mL | C(C)OCC | C4H10O
reactant | TsOH | 0.0154 mol, 2.92 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | EtOH | 20.0 mL | CCO | C2H6O
product | (S)-2-(trimethylsilyl)ethyl 2-amino-3-cyclohexylpropyl(methyl)carbamate | 3.5 g, 80% | N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1 | C16H34N2O2Si
